US05312978
A 1-liter three-necked flask was charged under an atmosphere of nitrogen with 54.9 g of vitamin A aldehyde (69.1% purity, 133.6 mmoles, ratio of all trans form: 98.5%), 250 g of 2-methyl-2-butene, 100 ml of dioxane and 53.2 g of a 25% aqueous sodium chlorite solution. The mixture was mechanically stirred vigorously and, while the internal temperature was maintained at 5° C., 170 g of a 8.5% aqueous phosphoric acid solution was added thereto dropwise over 1.5 hours. After completion of the addition, the mixture was further stirred vigorously at 5° C. for 40 minutes. After confirming exhaustion of the starting material vitamin A aldehyde by thin layer chromatography, yellow solid that precipitated was filtered through a glass filter and then washed several times with water. The yellow solid was transferred to a 500-ml flask, and 200 ml of a 5% aqueous potassium hydroxide solution and 100 ml of ethanol were added thereto. The mixture was refluxed with heating for 1.5 hours. After cooling, the reaction mixture was transferred to a 1-liter separating funnel. To the mixture 200 ml of hexane was added and the funnel was shaken sufficiently. The bottom layer was separated and acidified with a 10% aqueous sulfuric acid solution. The yellow solid that precipitated was extracted with 500 ml of isopropyl ether and the extract was washed with water until the bottom layer became neutral. The isopropyl ether was distilled off under reduced pressure and 400 ml of ethanol was added to the yellow residue and the mixture was heated. After confirmation of complete dissolution, the solution was gradually cooled with stirring to 0° C. The vitamin A acid crystal that precipitated was filtered through a glass filter and then washed with cold ethanol. The crystal was dried under reduced pressure, to give 22.3 g of vitamin A acid having a purity of at least 99%. The yield was 55.9%. The vitamin A acid thus obtained had a all trans form ratio of 99.5%.

reactant | vitamin A aldehyde | 54.9 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=O)/C)/C | C20H28O
reactant | 2-methyl-2-butene | 250 g | CC(C)=CC | C5H10
reactant | sodium chlorite | Cl(=O)[O-].[Na+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | vitamin A acid | 22.3 g, yield was 55.9% | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C(=O)O)/C)/C | C20H28O2
